US04242507
In dry benzene (300 ml) are dissolved 1-hydroxy-6-vinyl-1,2,3-benzotriazole (4.83 g) and triethylamine (3.2 g) under stirring, and thereto is added dropwise a solution of p-toluenesulfonyl chloride (5.8 g) in benzene (50 ml) under cooling at 10° C. The mixture is stirred at room temperature for 2 hours. The reaction mixture is poured onto ice-water (200 ml) and extracted with ethyl acetate (60 ml, three times). The combined extracts are washed with an aqueous sodium hydrogen carbonate and then water, dried over anhydrous magnesium sulfate, treated with charcoal and then concentrated under a reduced pressure. The resulting residue is recrystallized from ethyl acetate-n-hexane to give colorless crystals of 1-(p-toluenesulfonyloxy)-6-vinyl-1,2,3-benzotriazole (6.1 g), melting point: 90°-91° C. The filtrate is further concentrated, and the resulting residue is recrystallized from benzene-n-hexane to give additionally the desired product (1.9 g).

reactant | 1-hydroxy-6-vinyl-1,2,3-benzotriazole | 4.83 g | ON1N=NC2=C1C=C(C=C2)C=C | C8H7N3O
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 5.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-toluenesulfonyloxy)-6-vinyl-1,2,3-benzotriazole | 6.1 g | C1(=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)C=C)C | C15H13N3O3S
